US04898871
The procedure is as in Example 44, but starting with [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid (3.1 g) in anhydrous dimethylformamide (70 cc), N,'-carbonyldiimidazole (1.4 g) and N-methylpropylamine (0.6 g). After recrystallization in ethanol, [2-(7-methoxy-1,8-naphthyridin-2yl)-3-oxo1 -isoindolinyloxy]-N-methyl-N-propylacetamide (2.7 g), m.p. 160° C., is obtained.

reactant | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid | 3.1 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | N-methylpropylamine | 0.6 g | CNCCC | C4H11N
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
product | [2-(7-methoxy-1,8-naphthyridin-2yl)-3-oxo1 -isoindolinyloxy]-N-methyl-N-propylacetamide | 2.7 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)N(CCC)C | C23H24N4O4
